US04543120
N-[(4-Chloro-6-ethoxypyrimidin-2-yl)aminocarbonyl]-2-(propylsulfonyl)benzenesulfonamide
To a suspension of 2-propylsulfonylbenzenesulfonyl isocyanate (1.67 g, 5.76 mmol) in dry acetonitrile was added 2-amino-4-chloro-6-ethoxypyrimidine (1.00 g, 5.76 mmol). After stirring at room temperature overnight, the reaction mixture was filtered and the solid washed with 1-chlorobutane to give the product as a white powder melting at 220°-222° C.

reactant | 2-propylsulfonylbenzenesulfonyl isocyanate | 5.76 mmol, 1.67 g | C(CC)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C10H11NO5S2
reactant | 2-amino-4-chloro-6-ethoxypyrimidine | 5.76 mmol, 1.00 g | NC1=NC(=CC(=N1)Cl)OCC | C6H8ClN3O
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[(4-Chloro-6-ethoxypyrimidin-2-yl)aminocarbonyl]-2-(propylsulfonyl)benzenesulfonamide | ClC1=NC(=NC(=C1)OCC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)CCC | C16H19ClN4O6S2
